*
Subckt Amp0 posin negin posv negv out
*supply voltage limited amp, gain = 10,000, Fu=1Ghz, F3db=100khz
g1 4 0 posin negin -10u
rg 4 0 100k
d1 4 0 diode
d2 0 4 diode
b1 1 2 v=v(posv,negv)*tanh(v(4, 0)/v(posv,negv)*2e4)/2
c1 3 2 15.9p
r1 1 3 100k
e1 out 2 3 2 1
e2 2 negv posv negv 0.5
.model diode d(bv=0.7)
.ends
SUBCKT Amp1 posin negin posv negv out
*supply voltage limited amp, gain = 10,000, Fu=500Mhz, F3db=500khz on a 10V supply, 500V/us
g1 1 0 posin negin -1u
rg 1 0 100k
cg 1 rcs 3p
d1 1 0 diode
d2 0 1 diode
rs rcs 0 500
cg2 0 rcs 0.1p
a1 1 3 limiter
c1 5 0 10p
r1 6 5 1k
b1 6 4 v=v(posv,negv) * v(3)
e2 4 0 negv 0 1
e3 ampout 4 5 4 1
.model limiter limit(in_offset=0 gain=10000 out_lower_limit=0 out_upper_limit=1.0 limit_range=0.01 fraction=FALSE)
.model diode d(bv=0.7)
.ends
.SUBCKT Amp2 posin negin out posv negv
b1 1 2 v=v(posv,negv)*tanh(v(posin,negin)/v(posv,negv)*2e4)/2
c1 3 2 15.9p
r1 1 3 100k
e1 out 2 3 2 1
e2 2 negv posv negv 0.5
.ends
.Subckt Comp0 posin negin posv negv out
g1 4 0 posin negin -10u
rg 4 0 100k
d1 4 0 diode
d2 0 4 diode
b1 1 2 v=v(posv,negv)*tanh(v(4,0)/v(posv,negv)*2e3)/2
c1 3 2 15.9p
r1 1 3 100
e1 out 2 3 2 1
e2 2 negv posv negv 0.5
.model diode d(bv=0.7)
.ends
.Subckt Comp1 posin negin out posv negv
b1 1 2 v=v(posv,negv)*tanh(v(posin,negin)/v(posv,negv)*2e3)/2
c1 3 2 15.9p
r1 1 3 100
e1 out 2 3 2 1
e2 2 negv posv negv 0.5
.ends
*supply voltage limited comparitor, gain = 2,000, Fu=900Mhz, F3db=1Mkhz on a 10V supply, 5000V/us
.Subckt Comp2 posin negcompin posv negv compout
g1 1 0 posin negampin -1u
rg 1 0 100k
cg 1 0 1p
d1 1 0 diode
d2 0 1 diode
a1 1 3 limiter
c1 5 0 1p
r1 6 5 1k
b1 6 4 v=v(posv,negv) * v(3)
e2 4 0 negv 0 1
e3 ampout 4 5 4 1
.model limiter limit(in_offset=0 gain=5000 out_lower_limit=0 out_upper_limit=1.0 limit_range=0.05 fraction=FALSE)
.model diode d(bv=0.7)
.ends
.Suckt Schmitt0 negin out posv negv
g1 4 0 posin negin -1u
rg 4 0 100k
d1 4 0 diode
d2 0 4 diode
b1 1 2 v=v(posv,negv)*tanh(0.1+v(4,0)/v(posv,negv)*2e3)/2
c1 3 2 15.9p
r1 1 3 100
b2 out 2 v=v(3,2)
e2 2 negv posv negv 0.5
e3 posin 2 out 2 0.5
.model diode d(bv=0.7)
.ends
.Subckt Schmitt1 negin out posv negv
b1 1 2 v=v(posv,negv)*tanh(0.1+v(posin,negin)/v(posv,negv)*2e3)/2
c1 3 2 15.9p
r1 1 3 100
b2 out 2 v=v(3,2)
e2 2 negv posv negv 0.5
e3 posin 2 out 2 0.5
.ends
.Subckt SchmittIdeal _ssi_pin0_aVin _ssi_pin1_aVout _ssi_pin2_aVp _ssi_pin3_aVn 
*
V_ssi_pin3 _ssi_pin3_aVn  aVn 0
V_ssi_pin2 _ssi_pin2_aVp  aVp 0
V_ssi_pin1 _ssi_pin1_aVout  aVout 0
V_ssi_pin0 _ssi_pin0_aVin  aVin 0
s1 as aVn 1 0 switch1
b1 1 0 v=( 2*V(aVin) - V(aVn) - V(aVp) ) / ( V(aVp)-V(aVn) )
rl aVp as 10k
e1 ae 0 as 0 1
r4 ae aVout 1
.model switch1 sw(ron=10 roff=10Meg vt=0 vh=0.5)
.ends