.subckt 74hc595 _OE RCLK SER _SRCLR SRCLK _QH QA QB QC QD QE QF QG QH VCC VGND  vcc1={vcc} speed1={speed} tripdt1={tripdt}
.param vcc=5 speed=1 tripdt=1e-9
.param vcc1={vcc} speed1={speed} tripdt1={tripdt}
.param td1=1e-9*(11-3-3)*4.0/({vcc1}-0.5)*{speed1}
.param td2=1e-9*(14+4-3-3)*4.0/({vcc1}-0.5)*{speed1}
A1 si 0 sck sclr 0 0 qi1 0 DFLOP td={td1}
A2 qi1 0 sck sclr 0 0 qi2 0 DFLOP td={td1}
A3 qi2 0 sck sclr 0 0 qi3 0 DFLOP td={td1}
A4 qi3 0 sck sclr 0 0 qi4 0 DFLOP td={td1}
A5 qi4 0 sck sclr 0 0 qi5 0 DFLOP td={td1}
A6 qi5 0 sck sclr 0 0 qi6 0 DFLOP td={td1}
A7 qi6 0 sck sclr 0 0 qi7 0 DFLOP td={td1}
A8 qi7 0 sck sclr 0 0 qi8 0 DFLOP td={td1}
A9 qi1 0 rck sclr 0 0 QAx 0 DFLOP td={td1}
A10 qi2 0 rck sclr 0 0 QBx 0 DFLOP td={td1}
A11 qi3 0 rck sclr 0 0 QCx 0 DFLOP td={td1}
A12 qi4 0 rck sclr 0 0 QDx 0 DFLOP td={td1}
A13 qi5 0 rck sclr 0 0 QEx 0 DFLOP td={td1}
A14 qi6 0 rck sclr 0 0 QFx 0 DFLOP td={td1}
A15 qi7 0 rck sclr 0 0 QGx 0 DFLOP td={td1}
A16 qi8 0 rck sclr 0 0 QHx 0 DFLOP td={td1}
XU1 SER si VCC 0 74hc_IN_1 vcc2={vcc1} speed2={speed1} tripdt2={tripdt1}
XU2 SRCLK sck VCC 0 74hc_IN_1 vcc2={vcc1} speed2={speed1} tripdt2={tripdt1}
XU3 _SRCLR N001 VCC 0 74hc_IN_1 vcc2={vcc1} speed2={speed1} tripdt2={tripdt1}
XU4 RCLK rck VCC 0 74hc_IN_1 vcc2={vcc1} speed2={speed1} tripdt2={tripdt1}
XU5 oei QAx QA VCC 0 74HC_OUT_TS_2X vcc2={vcc1} speed2={speed1} tripdt2={tripdt1}
XU6 oei QBx QB VCC 0 74HC_OUT_TS_2X vcc2={vcc1} speed2={speed1} tripdt2={tripdt1}
XU7 oei QCx QC VCC 0 74HC_OUT_TS_2X vcc2={vcc1} speed2={speed1} tripdt2={tripdt1}
XU8 oei QDx QD VCC 0 74HC_OUT_TS_2X vcc2={vcc1} speed2={speed1} tripdt2={tripdt1}
XU9 oei QEx QE VCC 0 74HC_OUT_TS_2X vcc2={vcc1} speed2={speed1} tripdt2={tripdt1}
XU10 oei QFx QF VCC 0 74HC_OUT_TS_2X vcc2={vcc1} speed2={speed1} tripdt2={tripdt1}
XU11 oei QGx QG VCC 0 74HC_OUT_TS_2X vcc2={vcc1} speed2={speed1} tripdt2={tripdt1}
XU12 oei QHx QH VCC 0 74HC_OUT_TS_2X vcc2={vcc1} speed2={speed1} tripdt2={tripdt1}
XU13 oei qi8 _QH VCC 0 74HC_OUT_TS_2X vcc2={vcc1} speed2={speed1} tripdt2={tripdt1}
XU14 _OE N002 VCC 0 74hc_IN_1 vcc2={vcc1} speed2={speed1} tripdt2={tripdt1}
A17 N001 0 0 0 0 sclr 0 0 BUF
A18 N002 0 0 0 0 oei 0 0 BUF
.ends
