.subckt A1366 Input_Field VCC VOUT NC/GND DUT_GND
XSensor_BW N002 N004 N002 opamp Aol=100K GBW=120k
B1 N004 DUT_GND V=if({polarity}== 2,delay(V(Input_Field)*{Sensitivity}*(V(Vcc)/5)+(V(Vcc)/2), 2.7u), delay(V(Input_Field)*{Sensitivity}*(V(Vcc)/5)+(V(Vcc)/10), 2.7u))
VSat_Low N003 DUT_GND 400mV
XOutput_stage N002 Vout N001 N003 Vout level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
VSat_High N001 DUT_GND 4.7V
I1 DUT_GND VCC 10mA
.lib opamp.sub
.lib UniversalOpamps2.sub
.backanno
.ends A1366
.end
