* Copyright 2005-2014 Avago Technologies Limited. All Right Reserved
*
* ACPL-C87A and ACPL-C87B PSpice Macromodel
*
* Rev 2.0  14/01/2014
*     - SPICE Model is verified by LT Spice at Ta=25^C. Compatible to PSPICE.
*     - Macro model performance matches the typical datasheet specifications.
*     - Worst case performance are not modeled.
*
* Macromodels provided by Avago Technologies are not warranted
* as fully representing all of the specification and operating
* characteristics of the product.
*
* Macromodels are useful for evaluating product performance but they
* cannot model exact device performance under all condition, nor are
* they intented to replace breadboarding for final verification.
*
*
**********************************************************************
* block symbol definitions
.subckt acpl-c87at vdd1 vin sd gnd1 gnd2 von vop vdd2
V2 N011 0 1.25
D2 VL N022 DLIM
V3 VH gnd2 2.4
G1 N011 N003 vin gnd1 5E-5
D1 N003 VH DLIM
R1 N003 N011 10.25k
R2 N011 N022 10.25k
V4 VL gnd2 0.1
G2 N022 N011 vin gnd1 5E-5
E1 N004 N012 N007 N011 1
E2 N017 N019 N018 N019 1
R3 vop N004 32
R4 von N019 32
D3 N001 N002 D
D4 N002 gnd2 D
R5 vdd2 N001 100k
G3 vdd2 gnd2 N001 gnd2 6E-3
C1 N003 N011 150p
C2 N011 N022 150p
D7 N004 vdd2 D
D8 gnd2 N019 D
R7 sd gnd1 10meg
M1 N005 sd vdd1 vdd1 PMOS1 W=50u L=5u
D5 N014 gnd1 DSEN
D6 N008 N014 DSEN
R6 N005 N008 10k
G4 N013 gnd1 N008 gnd1 100E-3
D9 gnd1 N013 D
M4 N013 sd vdd1 vdd1 PMOS1 W=50u L=0.5u
M5 N003 N010 N011 N011 NMOS1 W=2u L=0.6u
M6 N011 N020 N022 N022 NMOS1 W=2u L=0.6u
E3 N010 N011 sd gnd1 1
E4 N020 N022 sd gnd1 1
M2 N011 N009 N003 N003 PMOS1 W=50u L=0.5u
M3 N022 N015 N011 N011 PMOS1 W=50u L=0.5u
E5 N003 N009 I5V vdd1 1
E6 N011 N015 I5V vdd1 1
V1 I5V gnd1 5
M7 N023 vdd1 gnd1 gnd1 NMOS1 W=200u L=0.6u
M8 no_light vdd1 I5V I5V PMOS1 W=50u L=0.5u
M9 N021 sd gnd1 gnd1 NMOS1 W=20u L=0.6u
M10 N021 sd I5V I5V PMOS1 W=50u L=0.5u
M11 no_light N021 I5V I5V PMOS1 W=50u L=0.5u
M12 no_light N021 N023 N023 NMOS1 W=200u L=0.6u
E7 N011 N012 no_light gnd1 0.25
E8 N017 N011 no_light gnd1 0.25
T1 N006 N011 N007 N011 Td=2u Z0=50
T2 N016 N019 N018 N019 Td=2u Z0=50
E9 N006 N011 N003 N011 1
E10 N016 N019 N011 N022 1
R8 N007 N011 50
R9 N018 N019 50
.model DLIM D is=100n
.MODEL PMOS1 PMOS LEVEL=3 L=5.5000E-7 W=2E-6 RS=10.000E-3 RD=10.000E-3
+ VTO=-9.54E-1 RDS=1.0000E6 TOX=1.24E-8 CGSO=2.01E-10 CGDO=2.01E-10 CBD=0
+ RG=5 RB=1.0000E-3 GAMMA=0 KAPPA=0 UO=215
.MODEL NMOS1 NMOS LEVEL=3 L=5.0000E-7 W=2E-6 RS=10.000E-3 RD=10.000E-3
+ VTO=7.55E-1 RDS=1.0000E6 TOX=1.25E-8 CGSO=1.83E-10 CGDO=1.83E-10
+ CBD=1.0000E-12 RG=5 RB=1.0000E-3 GAMMA=0 KAPPA=0 UO=400
.model DSEN D is=100u
.ends acpl-c87at

.model D D


.SUBCKT ACNT-H87 vdd1 vin sd gnd1 gnd2 von vop vdd2
XU1 vdd1 vin sd gnd1 gnd2 von vop vdd2 acpl-c87at
.ENDS ACNT-H87

