.subckt ACS717 IP+ IP- DUT_GND Viout VCC
Rp IP+ IP- 0.85m
XSet_BW N002 N003 N002 opamp Aol=100K GBW=40k
B N003 DUT_GND V=if({polarity}==2,(V(IP+)-V(IP-))/0.85m*{Sensitivity}*(V(VCC)/3.3)+(V(VCC)/2), (V(IP+)-V(IP-))/0.85m*{Sensitivity}*(V(VCC)/3.3)+(V(VCC)/10))
B§High N001 DUT_GND V=V(VCC)-0.3
V§Low N004 DUT_GND 300mV
XBuffer N002 Viout N001 N004 Viout level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
ICC DUT_GND VCC 6mA
.lib opamp.sub
.lib UniversalOpamps2.sub
.backanno
.ends ACS717
.end
