.subckt ACS722 IP+ IP- DUT_GND VCC Viout BW_SEL
Rp IP+ IP- 0.65m
XSet_BW N002 N004 N002 opamp Aol=100K GBW=80k
B§OutputStage N004 DUT_GND V=if({polarity}== 2,(V(IP+)-V(IP-))/0.65m*{Sensitivity}*(V(Vcc)/3.3)+(V(Vcc)/2),(V(IP+)-V(IP-))/0.65m*{Sensitivity}*(V(Vcc)/3.3)+(V(Vcc)/10))
M§BW_SEL N003 BW_SEL N006 N006 NMOS
R_BW N003 N002 8k
C_BW N006 DUT_GND 1n
B§VSat_High N001 DUT_GND V=V(VCC)-0.33
VSat_Low N005 DUT_GND 330mV
XBuffer N003 OUTPUT N001 N005 OUTPUT level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
B§PropDelay Viout DUT_GND V=if(V(BW_SEL)==V(Vcc), delay(V(OUTPUT), .217u), delay(V(OUTPUT), .01u))
I1 DUT_GND VCC 9mA
.model NMOS NMOS
.model PMOS PMOS
.lib opamp.sub
.lib UniversalOpamps2.sub
.backanno
.ends ACS722
.end
