.subckt ACS724 IP+ IP- DUT_GND VCC Viout Filter
Rp IP+ IP- 1.2m
B1 N003 DUT_GND V=if({polarity}== 2,delay((V(IP+)-V(IP-))/1.2m*{Sensitivity}*(V(Vcc)/5)+(V(Vcc)/2), 1.4u), delay((V(IP+)-V(IP-))/1.2m*{Sensitivity}*(V(Vcc)/5)+(V(Vcc)/10), 1.4u))
R_F N004 N003 1.8k
B§VSat_High N002 DUT_GND V=V(VCC)-0.3
VSat_Low N006 DUT_GND 300mV
XBuffer Filter Viout N002 N006 Viout level.2 Avol=1Meg GBW=120k Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
I1 DUT_GND VCC 10mA
B§VSat_High1 N001 DUT_GND V=V(VCC)-0.3
VSat_Low1 N005 DUT_GND 300mV
XBuffer1 N004 Filter N001 N005 Filter level.2 Avol=1Meg GBW=120k Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
.lib opamp.sub
.lib UniversalOpamps2.sub
.backanno
.ends ACS724
.end
