.subckt ACS72981 IP+ IP- VIOUT DUT_GND VCC
Rp IP+ IP- 200µ
XSet_BW N002 N003 N002 opamp Aol=100K GBW=250k
B1 N003 DUT_GND V=if({polarity}==2,(V(IP+)-V(IP-))/200u*{sensitivity}*(V(Vcc)/{VCC_typ})+(V(Vcc)/2),(V(IP+)-V(IP-))/200u*{sensitivity}*(V(Vcc)/{VCC_typ})+(V(Vcc)/10))
VSat_Low N004 DUT_GND 200mV
XBuffer N002 Viout N001 N004 Viout level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
B§VSat_High N001 DUT_GND V=V(Vcc)-0.2
I1 DUT_GND VCC 14mA
.lib opamp.sub
.lib UniversalOpamps2.sub
.backanno
.ends ACS72981
.end
