.subckt ACS772 IP+ IP- VCC Viout DUT_GND
Rp IP+ IP- 100µ
XSet_BW N002 N003 N002 opamp Aol=100K GBW=200k
B1 N003 DUT_GND V=if({polarity}==2, delay((V(IP+)-V(IP-))/100u*{sensitivity}*(V(Vcc)/5)+(V(Vcc)/2), .735u),delay((V(IP+)-V(IP-))/100u*{sensitivity}*(V(Vcc)/5)+(V(Vcc)/10), .735u))
B§VSat_High N001 DUT_GND V=V(VCC)-0.3
VSat_Low N004 DUT_GND 300mV
XBuffer N002 Viout N001 N004 Viout level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
I1 DUT_GND VCC 10mA
.lib opamp.sub
.lib UniversalOpamps2.sub
.backanno
.ends ACS772
.end
