.subckt ACS781 IP+ IP- Viout VCC DUT_GND
Rp IP+ IP- 200µ
XSet_BW N002 N003 N002 opamp Aol=100K GBW=120k
B1 N003 DUT_GND V=if({polarity}== 2,(V(IP+)-V(IP-))/200u*{Sensitivity}*(V(Vcc)/3)+(V(Vcc)/2),(V(IP+)-V(IP-))/200u*{Sensitivity}*(V(Vcc)/3)+(V(Vcc)/10))
VSat_Low N004 DUT_GND 400mV
XBuffer N002 Viout N001 N004 Viout level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
VSat_High N001 DUT_GND 4.7V
I1 DUT_GND VCC 11mA
.lib opamp.sub
.lib UniversalOpamps2.sub
.backanno
.ends ACS781
.end
